US04351969
236 g (1 mol) of 2,2,6,6-tetrachlorocyclohexanone and 2.5 g (0.01 mol) of triphenylphosphine were introduced into a reactor equipped with a stirrer and a condenser. The mixture was heated at 150°-180° C. under stirring; the reaction was terminated when the evolution of hydrogen chloride from the reaction mixture ceased. The reaction mixture was then distilled under reduced pressure (boiling point (20 mm Hg)=100° C.) to yield 137.5 g of 2,6-dichlorophenol.

reactant | 2,2,6,6-tetrachlorocyclohexanone | 1 mol, 236 g | ClC1(C(C(CCC1)(Cl)Cl)=O)Cl | C6H6Cl4O
reactant | triphenylphosphine | 0.01 mol, 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2,6-dichlorophenol | 137.5 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
